US06288120B1
(3-Formyl-phenyl)-acetic acid methyl ester.
A mixture of (3-cyano-phenyl)-acetic acid methyl ester (1.56 g, 8.91 mmol), aluminum-nickel alloy (1.63 g) and 75% formic acid (25 mL) was heated at reflux for 1.75 h. The mixture was cooled to room temperature and the solids were removed by filtration through Celite with the aid of boiling EtOH. Water was added and the aqueous solution was washed with CH2Cl2 (3×). Aqueous saturated NaHCO3 was carefully added to the organic solution until the pH was about 8-9. The organic solution was washed with brine, dried over MgSO4, and concentrated. Purification by flash chromatography (5:1 hexanes:EtOAc) provided the title compound as a clear and colorless oil (870 mg). 1H NMR (400 MHz, CDCl3) δ 9.98 (s, 1H), 7.77 (m, 2H), 7.55-7.46 (m, 2H), 3.68 (s, 5H).

reactant | (3-cyano-phenyl)-acetic acid methyl ester | 8.91 mmol, 1.56 g | COC(CC1=CC(=CC=C1)C#N)=O | C10H9NO2
reactant | formic acid | 25 mL | C(=O)O | CH2O2
catalyst | aluminum-nickel alloy | 1.63 g | [Al].[Ni]
product | (3-Formyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)C=O)=O | C10H10O3
